US07625889B2
Step 3: N-(2-Dimethylamino-ethyl)-4-fluoro-N-[5-(1H-indol-5-yl)-pyridin-3-ylmethyl]-benzamide:
4-Fluorobenzoyl chloride (111 mg, 0.7 mmol) was added to a solution of N′-[5-(1H-indol-5-yl)-pyridin-3-ylmethyl]-N,N-dimethyl-ethane-1,2-diamine (160 mg, 0.54 mmol) and triethyl amine (109 mg, 1.08 mmol) in 15 mL of dichloromethane at room temperature. The resulting mixture was stirred at ambient temperature overnight, and then a further 111 mg of 4-fluorobenzoyl chloride was added and the mixture stirred for an additional 2 h. The volatiles were removed in vacuo to leave the crude product. Chromatography (elution with methanol/dichloromethane) provided 231 mg of material. This was dissolved in dichloromethane and washed with 1M sodium hydroxide solution. The organic phase was dried over magnesium sulfate, filtered and concentrated to leave material which was further purified by HPLC (elution with acetonitrile/water/TFA) to give 21 mg of product. LC/MS (long run): Retention time, 3.85 min; (M+H)=417.

reactant | 4-Fluorobenzoyl chloride | 0.7 mmol, 111 mg | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | N′-[5-(1H-indol-5-yl)-pyridin-3-ylmethyl]-N,N-dimethyl-ethane-1,2-diamine | 0.54 mmol, 160 mg | N1C=CC2=CC(=CC=C12)C=1C=C(C=NC1)CNCCN(C)C | C18H22N4
reactant | triethyl amine | 1.08 mmol, 109 mg | C(C)N(CC)CC | C6H15N
reactant | 4-fluorobenzoyl chloride | 111 mg | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | N-(2-Dimethylamino-ethyl)-4-fluoro-N-[5-(1H-indol-5-yl)-pyridin-3-ylmethyl]-benzamide | 231 mg | CN(CCN(C(C1=CC=C(C=C1)F)=O)CC=1C=NC=C(C1)C=1C=C2C=CNC2=CC1)C | C25H25FN4O
